US05846995
N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-2,4-difluorobenzamide
Beginning with 9.0 mg (0.029 mMol) N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate and 6.3 mg (0.036 mMol) of 2,4-difluorobenzoyl chloride, 6.91 mg (64%) of the title compound were recovered by the procedure described in Example 2.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate | 0.029 mMol, 9.0 mg | O.Cl.Cl.CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C.CN(C1CC3=C(OC2=C3C=C(C=C2)N)CC1)C.Cl.Cl
reactant | 2,4-difluorobenzoyl chloride | 0.036 mMol, 6.3 mg | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
product | N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)-2,4-difluorobenzamide | 6.91 mg, 64% | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(C3=C(C=C(C=C3)F)F)=O)CC1)C | C21H20F2N2O2
